* Created by KLayout
*** My special header ***

* cell inverter_big
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT inverter_big A Q VDD VSS
* device instance $1 r0 *1 -105.6,30 PMOS
XM$1 Q A VDD VDD PMOS L=2u W=1600u AS=2452p AD=2452p PS=1762.6u PD=1762.6u
* device instance $41 r0 *1 -52.5,-120.8 NMOS
XM$41 Q A VSS VSS NMOS L=2u W=680u AS=1064.2p AD=1064.2p PS=776.6u PD=776.6u
.ENDS inverter_big
