* Created by KLayout
*** My special header ***

* cell inverter_kato1
* pin VSS
.SUBCKT inverter_kato1 VSS
* device instance $1 r180 *1 -2.4,4.6 PMOS
XM$1 \$3 \$2 \$1 \$1 PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r180 *1 -2.5,-25.3 NMOS
XM$2 \$3 \$2 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_kato1
