* Created by KLayout
*** My special header ***

* cell inverter_kudo
* pin VSS
.SUBCKT inverter_kudo VSS
* device instance $1 r0 *1 0.5,3.1 PMOS
XM$1 \$1 \$2 \$3 \$1 PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 0.4,-22.7 NMOS
XM$2 VSS \$2 \$3 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_kudo
