* Created by KLayout
*** My special header ***

* cell inverter_ssk
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT inverter_ssk A Q VDD VSS
* device instance $1 r0 *1 -22.25,0 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=200.6u AS=316.24p AD=316.24p PS=266u PD=266u
* device instance $18 r0 *1 -22.25,-31 NMOS
XM$18 VSS A Q VSS NMOS L=1u W=79.9u AS=125.96p AD=125.96p PS=138.2u PD=138.2u
.ENDS inverter_ssk
