* Created by KLayout
*** My special header ***

* cell CS
* pin VDD
* pin VSS
* pin vctrl
* pin vvctrl
.SUBCKT CS VDD VSS vctrl vvctrl
* device instance $1 r0 *1 -55.9,181.5 PMOS
XM$1 vvctrl vvctrl VDD VDD PMOS L=30u W=20.4u AS=43.86p AD=43.86p PS=39.2u
+ PD=39.2u
* device instance $3 r0 *1 -55.9,148.4 NMOS
XM$3 \$1 vctrl VSS VSS NMOS L=30u W=6.8u AS=14.62p AD=14.62p PS=18.8u PD=18.8u
* device instance $5 r0 *1 -55.9,157.7 NMOS
XM$5 vvctrl vvctrl \$1 VSS NMOS L=30u W=6.8u AS=14.62p AD=14.62p PS=18.8u
+ PD=18.8u
.ENDS CS
