* Created by KLayout
*** My special header ***

* cell buffer
* pin VDD
* pin VSS
* pin vin
* pin vout
.SUBCKT buffer VDD VSS vin vout
* device instance $1 r0 *1 -5.6,-0.2 PMOS
XM$1 \$2 vin VDD VDD PMOS L=3.4u W=30.6u AS=59.16p AD=45.9p PS=52.4u PD=39.6u
* device instance $4 r0 *1 13.6,-0.2 PMOS
XM$4 VDD \$2 vout VDD PMOS L=3.4u W=30.6u AS=45.9p AD=59.16p PS=39.6u PD=52.4u
* device instance $7 r0 *1 0.8,-25.3 NMOS
XM$7 VSS vin \$2 VSS NMOS L=3.4u W=10.4u AS=22.36p AD=15.6p PS=24.2u PD=16.4u
* device instance $9 r0 *1 13.6,-25.3 NMOS
XM$9 VSS \$2 vout VSS NMOS L=3.4u W=10.4u AS=15.6p AD=22.36p PS=16.4u PD=24.2u
.ENDS buffer
