* Created by KLayout
*** My special header ***

* cell inverter
* pin VDD
* pin VSS
* pin vctrl
* pin vin
* pin vout
* pin vvctrl
.SUBCKT inverter VDD VSS vctrl vin vout vvctrl
* device instance $1 r0 *1 -55.9,173.7 PMOS
XM$1 \$1 vvctrl VDD VDD PMOS L=30u W=20.4u AS=43.86p AD=30.6p PS=39.2u PD=26.4u
* device instance $3 r0 *1 -3.2,173.7 PMOS
XM$3 \$1 vin vout VDD PMOS L=3.4u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 -55.9,140.9 NMOS
XM$4 \$2 vctrl VSS VSS NMOS L=30u W=6.8u AS=14.62p AD=10.2p PS=18.8u PD=12.8u
* device instance $6 r0 *1 -3.2,140.9 NMOS
XM$6 \$2 vin vout VSS NMOS L=3.4u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $7 r90 *1 -40.7,-34.4 F_CSIO
XC$7 vout VSS VSS F_CSIO C=3.84e-12 A=6400p P=320u X=79.9999990463
+ Y=80.0000009537 m=2
.ENDS inverter
