* Created by KLayout
*** My special header ***

* cell vco
* pin VDD
* pin gnd
* pin inv_out
* pin vctrl
* pin vout
.SUBCKT vco VDD gnd inv_out vctrl vout
* cell instance $9 r0 *1 0,0
X$9 \$I18 \$4 inv_out vctrl VDD gnd inverter
* cell instance $10 r0 *1 616.8,181.6
X$10 \$7 vout VDD gnd buffer
* cell instance $23 r0 *1 686.4,-93.6
X$23 \$4 VDD vctrl gnd CS
* cell instance $38 r0 *1 572,0
X$38 \$7 \$4 \$I17 vctrl VDD gnd inverter
* cell instance $39 r0 *1 457.6,0
X$39 \$I17 \$4 \$I16 vctrl VDD gnd inverter
* cell instance $40 r0 *1 343.2,0
X$40 \$I16 \$4 \$I15 vctrl VDD gnd inverter
* cell instance $41 r0 *1 228.8,0
X$41 \$I15 \$4 \$I14 vctrl VDD gnd inverter
* cell instance $42 r0 *1 114.4,0
X$42 \$I14 \$4 \$I18 vctrl VDD gnd inverter
.ENDS vco

* cell CS
* pin vvctrl
* pin VDD
* pin vctrl
* pin VSS
.SUBCKT CS vvctrl VDD vctrl VSS
* device instance $1 r0 *1 -55.9,181.5 PMOS
XM$1 vvctrl vvctrl VDD VDD PMOS L=30u W=20.4u AS=43.86p AD=43.86p PS=39.2u
+ PD=39.2u
* device instance $3 r0 *1 -55.9,148.4 NMOS
XM$3 \$1 vctrl VSS VSS NMOS L=30u W=6.8u AS=14.62p AD=14.62p PS=18.8u PD=18.8u
* device instance $5 r0 *1 -55.9,157.7 NMOS
XM$5 vvctrl vvctrl \$1 VSS NMOS L=30u W=6.8u AS=14.62p AD=14.62p PS=18.8u
+ PD=18.8u
.ENDS CS

* cell inverter
* pin vout
* pin vvctrl
* pin vin
* pin vctrl
* pin VDD
* pin VSS
.SUBCKT inverter vout vvctrl vin vctrl VDD VSS
* device instance $1 r0 *1 -55.9,173.7 PMOS
XM$1 \$1 vvctrl VDD VDD PMOS L=30u W=20.4u AS=43.86p AD=30.6p PS=39.2u PD=26.4u
* device instance $3 r0 *1 -3.2,173.7 PMOS
XM$3 \$1 vin vout VDD PMOS L=3.4u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 -55.9,140.9 NMOS
XM$4 \$2 vctrl VSS VSS NMOS L=30u W=6.8u AS=14.62p AD=10.2p PS=18.8u PD=12.8u
* device instance $6 r0 *1 -3.2,140.9 NMOS
XM$6 \$2 vin vout VSS NMOS L=3.4u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $7 r90 *1 -40.7,-34.4 F_CSIO
XC$7 vout VSS VSS F_CSIO C=3.84e-12 A=6400p P=320u X=80 Y=80 m=2
.ENDS inverter

* cell buffer
* pin vin
* pin vout
* pin VDD
* pin VSS
.SUBCKT buffer vin vout VDD VSS
* device instance $1 r0 *1 -5.6,-0.2 PMOS
XM$1 \$2 vin VDD VDD PMOS L=3.4u W=30.6u AS=59.16p AD=45.9p PS=52.4u PD=39.6u
* device instance $4 r0 *1 13.6,-0.2 PMOS
XM$4 VDD \$2 vout VDD PMOS L=3.4u W=30.6u AS=45.9p AD=59.16p PS=39.6u PD=52.4u
* device instance $7 r0 *1 0.8,-25.3 NMOS
XM$7 VSS vin \$2 VSS NMOS L=3.4u W=10.4u AS=22.36p AD=15.6p PS=24.2u PD=16.4u
* device instance $9 r0 *1 13.6,-25.3 NMOS
XM$9 VSS \$2 vout VSS NMOS L=3.4u W=10.4u AS=15.6p AD=22.36p PS=16.4u PD=24.2u
.ENDS buffer
