** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/ringOSC/vco.sch
.subckt vco vdd inv_out vout vctrl gnd
*.PININFO vdd:B vout:O gnd:B vctrl:I inv_out:I
x2 vdd net5 net1 inv_out vctrl gnd inverter
x3 vdd net5 net2 net1 vctrl gnd inverter
x4 vdd net5 net4 net2 vctrl gnd inverter
x5 vdd net5 net3 net4 vctrl gnd inverter
x1 vdd vout net7 gnd buffer
x9 vdd net5 net6 net3 vctrl gnd inverter
x6 vdd net5 net7 net6 vctrl gnd inverter
x7 vdd net5 vctrl gnd CS
.ends

* expanding   symbol:  inverter.sym # of pins=6
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/ringOSC/inverter.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/ringOSC/inverter.sch
.subckt inverter vdd vvctrl vout vin vctrl gnd
*.PININFO vin:I vout:O vdd:B gnd:B vctrl:I vvctrl:I
MXM1 vout vin net2 gnd NMOS w=3.4u l=3.4u
MXM2 vout vin net1 vdd PMOS w=10.2u l=3.4u
MXM3 net2 vctrl gnd gnd NMOS w=6.8u l=30u
MXM4 net1 vvctrl vdd vdd PMOS w=20.4u l=30u
XXC1 vout gnd gnd F_CSIO x=80u y=80u A=6.4n P=320u
XXC2 vout gnd gnd F_CSIO x=80u y=80u A=6.4n P=320u
.ends


* expanding   symbol:  buffer.sym # of pins=4
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/ringOSC/buffer.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/ringOSC/buffer.sch
.subckt buffer vdd vout vin gnd
*.PININFO vdd:B vin:I vout:O gnd:B
MXM1 net1 vin gnd gnd NMOS w=10.4u l=3.4u
MXM2 net1 vin vdd vdd PMOS w=30.6u l=3.4u
MXM3 vout net1 gnd gnd NMOS w=10.4u l=3.4u
MXM4 vout net1 vdd vdd PMOS w=30.6u l=3.4u
.ends


* expanding   symbol:  CS.sym # of pins=4
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/ringOSC/CS.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/ringOSC/CS.sch
.subckt CS vdd vvctrl vctrl gnd
*.PININFO vdd:B vvctrl:O gnd:B vctrl:I
MXM3 net1 vctrl gnd gnd NMOS w=6.8u l=30u
MXM4 vvctrl vvctrl vdd vdd PMOS w=20.4u l=30u
MXM1 vvctrl vvctrl net1 gnd NMOS w=6.8u l=30u
.ends

